US06875868B2
g) 2,4-bis[[(2,3-difluorophenyl)methyl]thio]-7(8H)-pteridinone
Sodium (3.96 g) was dissolved in methanol (150 ml), 5,6-diamino-2,4-pyrimidinedithiol (15 g) was added, then 2,3-difluorobenzylbromide (30.9 g) slowly added and the reaction mixture was stirred at room temperature under nitrogen for 10 min. Ethyl glyoxalate (15 ml) was added followed by more sodium (2.5 g) and the reaction was left for a further 20 min. The reaction was then quenched with acetic acid (10 ml) and poured on to water (600 ml) with stirring. The resulting precipitate was filtered through celite and washed with water. The filtrate was discarded and the solid was washed through the celite using acetone. The solution was then evaporated to dryness and purified by silica gel column chromatography using 10% ethyl acetate in DCM to yield the sub-titled compound as a cream solid (8 g).

reactant | Sodium | 3.96 g | [Na] | Na
reactant | 5,6-diamino-2,4-pyrimidinedithiol | 15 g | NC=1C(=NC(=NC1N)S)S | C4H6N4S2
reactant | 2,3-difluorobenzylbromide | 30.9 g | FC1=C(CBr)C=CC=C1F | C7H5BrF2
reactant | Ethyl glyoxalate | 15 ml | C(C=O)(=O)OCC | C4H6O3
reactant | sodium | 2.5 g | [Na] | Na
solvent | methanol | 150 ml | CO | CH4O
product | 2,4-bis[[(2,3-difluorophenyl)methyl]thio]-7(8H)-pteridinone | 8 g | FC1=C(C=CC=C1F)CSC1=NC=2NC(C=NC2C(=N1)SCC1=C(C(=CC=C1)F)F)=O | C20H12F4N4OS2
